US07045516B1
(c) 5-Chloro-7-hydroxymethyl-2-mercaptobenzoxazole
5-Chloro-7-ethoxycarbonyl-2-mercaptobenzoxazole (280 mg) was dissolved in diethyl ether (20 mL), and the mixture was added with lithium tetrahydride borane (100 mg). The mixture was stirred at 35 C.° for 2 hours. The reaction mixture was added with methanol and 1 N hydrochloric acid, and volatile components were evaporated under reduced pressure. This procedure was repeated 3 times. The resultant product was purified by silica gel chromatography (methanol:methylene chloride=1:20) to obtain the title compound (163 mg).

reactant | 5-Chloro-7-ethoxycarbonyl-2-mercaptobenzoxazole | 280 mg | ClC=1C=C(C2=C(N=C(O2)S)C1)C(=O)OCC | C10H8ClNO3S
reactant | lithium tetrahydride borane | 100 mg | B.[H-].[H-].[H-].[H-].[Li+].[Li+].[Li+].[Li+]
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 5-Chloro-7-hydroxymethyl-2-mercaptobenzoxazole | 163 mg | ClC=1C=C(C2=C(N=C(O2)S)C1)CO | C8H6ClNO2S
